US08349826B2
17.i. [3-(6-methoxy-3-nitro-pyridin-2-ylamino)-propyl]-carbamic acid tert-butyl ester
A mixture of 2-chloro-6-methoxy-3-nitropyridine (5.9 g; commercial), N-(tert-butoxycarbonyl)-1,3-propanediamine (4.48 g; commercial) and K2CO3 (3.55 g) in MeCN (90 mL) and DMF (25 mL) was heated at 40° C. for 30 min. The reaction mixture was filtered and the filtrate was evaporated under reduced pressure. The residue was taken up in EA, sequentially washed with water and brine and evaporated under reduced pressure, affording 8.1 g (96% yield) of a crude yellow solid which was used in the next step without further purification.

reactant | 2-chloro-6-methoxy-3-nitropyridine | 5.9 g | ClC1=NC(=CC=C1[N+](=O)[O-])OC | C6H5ClN2O3
reactant | N-(tert-butoxycarbonyl)-1,3-propanediamine | 4.48 g | C(C)(C)(C)OC(=O)NCCCN | C8H18N2O2
reactant | K2CO3 | 3.55 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeCN | 90 mL | CC#N | C2H3N
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | [3-(6-methoxy-3-nitro-pyridin-2-ylamino)-propyl]-carbamic acid tert-butyl ester | 8.1 g, 96% yield | C(C)(C)(C)OC(NCCCNC1=NC(=CC=C1[N+](=O)[O-])OC)=O | C14H22N4O5
